US07476741B2
4-(3-Bromo-4,5-dimethoxyphenyl)-3-cyano-7-dimethylamino-4H-chromene
To a solution of 2-amino-4-(3-bromo-4,5-dimethoxy-phenyl)-3-cyano-7-dimethylamino-4H-chromene (101 mg, 0.239 mmol) in anhydrous THF (5 mL) at 0° C., was added tert-butylnitrite (0.1 mL, 0.76 mmol) via a syringe under argon. The brown solution was stirred at 0° C. for 2.5 h. Sodium borohydride (20 mg, 0.52 mmol) was added in one portion. The reaction mixture was warmed up to room temperature slowly and stirred overnight. It was quenched with addition of water (5 mL), and extracted with EtOAc (2×15 mL). The EtOAc solution was washed with brine (5 mL), dried over MgSO4, and evaporated to yield a brown residue. The residue was purified by flash column chromatography (silica gel, EtOAc:hexanes, 1:4) to yield 9 mg (9%) of the product as an off-white solid 1H NMR (CDCl3): 8.30 (d, J=1.2 Hz, 1H), 6.93 (d, J=2.1 Hz, 1H), 7.76 (dd, J=0.6, 8.7 Hz, 1H), 6.72 (d, J=1.8 Hz, 1H), 6.45 (dd, J=2.4, 8.7 Hz, 1H), 6.30 (d, J=2.7 Hz, 1H), 4.60 (s, 1H), 3.85 (s, 3H), 3.84 (s, 3H), 2.95 (s, 6H).

reactant | 2-amino-4-(3-bromo-4,5-dimethoxy-phenyl)-3-cyano-7-dimethylamino-4H-chromene | 0.239 mmol, 101 mg | NC=1OC2=CC(=CC=C2C(C1C#N)C1=CC(=C(C(=C1)OC)OC)Br)N(C)C | C20H20BrN3O3
reactant | tert-butylnitrite | 0.76 mmol, 0.1 mL | C(C)(C)(C)ON=O | C4H9NO2
reactant | Sodium borohydride | 0.52 mmol, 20 mg | [BH4-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-(3-Bromo-4,5-dimethoxyphenyl)-3-cyano-7-dimethylamino-4H-chromene | 9 mg, 9% | BrC=1C=C(C=C(C1OC)OC)C1C(=COC2=CC(=CC=C12)N(C)C)C#N | C20H19BrN2O3
